US07361677B2
4-{[10-(4-Hydroxy-phenylsulfanyl)-decyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile (CAB03011, STX625)
A mixture of 4-[(2-Bromo-decyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile (CAB03008, 607 mg, 1.5 mmol), 4-hydroxy-thiophenol (378 mg, 3.0 mmol) and potassium carbonate (414 mg, 3.0 mmol) in DMF (10 mL) was stirred for 12 hours at room temperature. The mixture was transferred into a separation funnel and ethyl acetate (50 mL) and water (50 mL) were added. The organic layer was separated, washed with brine (30 mL), dried over sodium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography (eluent: ethyl acetate, Rf: 0.71). The resulting yellow solid was dissolved in acetone and precipitated by addition of hexane to give a light yellow powder. Yield: 401 mg (59%). 1H-NMR (400 MHz, d6-DMSO) δ=1.16-1.52 (m, 16H), 2.76 (t, J=7.2 Hz, 2H), 3.80 (t, J=7.2 Hz, 2H), 6.62 (d, J=9.0 Hz, 2H), 6.72 (d, J=8.6 Hz, 2H), 7.19 (d, J=8.6 Hz, 2H), 7.72 (d, J=9.0 Hz, 2H), 8.97 (s, 2H), 9.53 (s, 1H, —OH). LRMS (FAB+): 450.2 (100, [M+H]+). HRMS (FAB+) 450.23208 C25H32N5OS requires 450.232758.

reactant | 4-[(2-Bromo-decyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile | 1.5 mmol, 607 mg | BrC(CN(C1=CC=C(C#N)C=C1)N1C=NN=C1)CCCCCCCC | C19H26BrN5
reactant | 4-hydroxy-thiophenol | 3.0 mmol, 378 mg | OC1=CC=C(C=C1)S | C6H6OS
reactant | potassium carbonate | 3.0 mmol, 414 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 4-{[10-(4-Hydroxy-phenylsulfanyl)-decyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile | OC1=CC=C(C=C1)SCCCCCCCCCCN(C1=CC=C(C#N)C=C1)N1C=NN=C1 | C25H31N5OS
